* C:\Users\Samyuktha\eSim-Workspace\flashadc\flashadc.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 03/10/22 01:50:40

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
R2  Net-_R1-Pad2_ Net-_R2-Pad2_ 1k		
R1  +5V Net-_R1-Pad2_ 1k		
R4  Net-_R3-Pad2_ Net-_R4-Pad2_ 1k		
R3  Net-_R2-Pad2_ Net-_R3-Pad2_ 1k		
R6  Net-_R5-Pad2_ Net-_R6-Pad2_ 1k		
R5  Net-_R4-Pad2_ Net-_R5-Pad2_ 1k		
R7  Net-_R7-Pad1_ Net-_R6-Pad2_ 1k		
R8  GND Net-_R7-Pad1_ 1k		
X2  ? Net-_R2-Pad2_ input GND ? Net-_U10-Pad1_ Net-_X1-Pad7_ ? lm_741		
X3  ? Net-_R3-Pad2_ input GND ? Net-_U11-Pad1_ Net-_X1-Pad7_ ? lm_741		
X6  ? Net-_R4-Pad2_ input GND ? Net-_U12-Pad1_ Net-_X1-Pad7_ ? lm_741		
X7  ? Net-_R5-Pad2_ input GND ? Net-_U13-Pad1_ Net-_X1-Pad7_ ? lm_741		
X5  ? Net-_R7-Pad1_ input GND ? Net-_U15-Pad1_ Net-_X1-Pad7_ ? lm_741		
X1  ? Net-_R1-Pad2_ input GND ? Net-_U9-Pad1_ Net-_X1-Pad7_ ? lm_741		
X4  ? Net-_R6-Pad2_ input GND ? Net-_U14-Pad1_ Net-_X1-Pad7_ ? lm_741		
v1  Net-_X1-Pad7_ GND DC		
v2  GND input pwl		
U1  input plot_v1		
U10  Net-_U10-Pad1_ Net-_U10-Pad2_ adc_bridge_1		
U9  Net-_U9-Pad1_ Net-_U2-Pad2_ adc_bridge_1		
U11  Net-_U11-Pad1_ Net-_U11-Pad2_ adc_bridge_1		
U12  Net-_U12-Pad1_ Net-_U12-Pad2_ adc_bridge_1		
U13  Net-_U13-Pad1_ Net-_U13-Pad2_ adc_bridge_1		
U14  Net-_U14-Pad1_ Net-_U14-Pad2_ adc_bridge_1		
U15  Net-_U15-Pad1_ Net-_U15-Pad2_ adc_bridge_1		
U2  GND Net-_U2-Pad2_ Net-_U16-Pad1_ samyuktha_flashadc		
U3  Net-_U2-Pad2_ Net-_U10-Pad2_ Net-_U17-Pad1_ samyuktha_flashadc		
U4  Net-_U10-Pad2_ Net-_U11-Pad2_ Net-_U18-Pad1_ samyuktha_flashadc		
U5  Net-_U11-Pad2_ Net-_U12-Pad2_ Net-_U19-Pad1_ samyuktha_flashadc		
U6  Net-_U12-Pad2_ Net-_U13-Pad2_ Net-_U20-Pad1_ samyuktha_flashadc		
U7  Net-_U13-Pad2_ Net-_U14-Pad2_ Net-_U21-Pad1_ samyuktha_flashadc		
U8  Net-_U14-Pad2_ Net-_U15-Pad2_ Net-_U22-Pad1_ samyuktha_flashadc		
U16  Net-_U16-Pad1_ Net-_D1-Pad1_ dac_bridge_1		
U17  Net-_U17-Pad1_ Net-_D4-Pad1_ dac_bridge_1		
U18  Net-_U18-Pad1_ Net-_D6-Pad1_ dac_bridge_1		
U19  Net-_U19-Pad1_ Net-_D8-Pad1_ dac_bridge_1		
U20  Net-_U20-Pad1_ Net-_D10-Pad1_ dac_bridge_1		
U21  Net-_U21-Pad1_ Net-_D11-Pad1_ dac_bridge_1		
U22  Net-_U22-Pad1_ Net-_D12-Pad1_ dac_bridge_1		
D3  Net-_D1-Pad1_ V_out1 eSim_Diode		
D2  Net-_D1-Pad1_ V_out2 eSim_Diode		
D1  Net-_D1-Pad1_ V_out3 eSim_Diode		
D5  Net-_D4-Pad1_ V_out2 eSim_Diode		
D4  Net-_D4-Pad1_ V_out3 eSim_Diode		
D7  Net-_D6-Pad1_ V_out1 eSim_Diode		
D6  Net-_D6-Pad1_ V_out3 eSim_Diode		
D8  Net-_D8-Pad1_ V_out3 eSim_Diode		
D10  Net-_D10-Pad1_ V_out1 eSim_Diode		
D9  Net-_D10-Pad1_ V_out2 eSim_Diode		
D11  Net-_D11-Pad1_ V_out2 eSim_Diode		
D12  Net-_D12-Pad1_ V_out1 eSim_Diode		
R11  GND V_out1 1k		
R10  GND V_out2 1k		
R9  GND V_out3 1k		
U25  V_out1 plot_v1		
U24  V_out2 plot_v1		
U23  V_out3 plot_v1		

.end
